US06555542B1
Part A. Chloroacetone (36 mg, 0.37 mmol) was added to a solution of benzyl (S)-2-thiocarbamoyl-pyrrolidine-1-carboxylate (90 mg, 0.34 mmol) in dry chloroform (2 mL). The resulting solution was heated to reflux for 24 h then purified by preparative HPLC yielding benzyl (S)-2-(4-methylthiazol-2-yl)-pyrrolidine-1-carboxylate as a colorless oil (55 mg, 54% yield): HPLC (method 1) tR=3.11 min, Purity 100%; LCMS (method 4) tR=1.57 min, m/z 303 (M+H).

reactant | Chloroacetone | 0.37 mmol, 36 mg | ClCC(C)=O | C3H5ClO
reactant | benzyl (S)-2-thiocarbamoyl-pyrrolidine-1-carboxylate | 0.34 mmol, 90 mg | C(N)(=S)[C@H]1N(CCC1)C(=O)OCC1=CC=CC=C1 | C13H16N2O2S
solvent | chloroform | 2 mL | C(Cl)(Cl)Cl | CHCl3
product | benzyl (S)-2-(4-methylthiazol-2-yl)-pyrrolidine-1-carboxylate | 55 mg, 54% yield | CC=1N=C(SC1)[C@H]1N(CCC1)C(=O)OCC1=CC=CC=C1 | C16H18N2O2S
